US08703953B2
A solution of methyl 4,6-dichloronicotinate (2.0 g, 9.71 mmol) in 1, 4-dioxane (30 mL) and water (1.5 mL), trimethylboroxine (0.731 g, 5.82 mmol), PdCl2(dppf)-CH2Cl2 (0.396 g, 0.485 mmol) and Cs2CO3 (9.49 g, 29.1 mmol) was degassed with argon for 15 min then heated to 110° C. for 16 h. After cooling, the solution was diluted with water (100 mL) and extracted with ethyl acetate (150 mL). The organic layer was dried over Na2SO4 and concentrated under reduced pressure. The residue was purified by silica gel chromatography (20% EtOAc in pet. ether) to afford methyl 4-chloro-6-methylnicotinate (0.1 g, 0.539 mmol, 22% yield) as a yellow oil. LCMS (ESI) m/e 186.0 [(M+H)+, calcd for C8H9ClNO2 186.02]; LC/MS retention time (Method E): tR=1.75 min. 1H NMR (400 MHz, CDCl3) δ 8.94 (s, 1H), 7.27 (s, 1H), 3.95 (s, 3H), 2.58 (s, 3H).

reactant | methyl 4,6-dichloronicotinate | 9.71 mmol, 2.0 g | ClC1=CC(=NC=C1C(=O)OC)Cl | C7H5Cl2NO2
reactant | trimethylboroxine | 5.82 mmol, 0.731 g | CB1OB(OB(O1)C)C | C3H9B3O3
reactant | Cs2CO3 | 29.1 mmol, 9.49 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | 1, 4-dioxane | 30 mL | O1CCOCC1 | C4H8O2
solvent | water | 1.5 mL | O | H2O
solvent | water | 100 mL | O | H2O
catalyst | PdCl2(dppf) CH2Cl2 | 0.485 mmol, 0.396 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | methyl 4-chloro-6-methylnicotinate | 0.539 mmol, 0.1 g, 22% yield | ClC1=CC(=NC=C1C(=O)OC)C | C8H8ClNO2
